US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(6-methyl-pyridin-2-ylmethylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.545 mmol) and 6-methyl-2-pyridine carboxaldehyde (66 mg, 0.545 mmol) similar to Example 3 and isolated as a pale white solid (83 mg, 53%). 1H NMR (CDCl3): 10.46 (s, 1H), 8.00 (s, 1H), 7.68-7.61 (m, 3H), 7.15 (dd, J=2.1, 6.3 Hz, 1H), 6.22-6.13 (m, 2H), 4.28 (s, 1H), 3.07 (s, 1H), 2.94 (s, 1H), 1.91-1.83 (m, 1H), 2.57 (s, 3H), 1.64 (d, J=9.0 Hz, 1H), 1.53 (d, J=8.7 Hz, 1H), 1.49-1.43 (m, 1H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.545 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | 6-methyl-2-pyridine carboxaldehyde | 0.545 mmol, 66 mg | CC1=CC=CC(=N1)C=O | C7H7NO
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(6-methyl-pyridin-2-ylmethylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC2=NC(=CC=C2)C)=S | C15H18N4S
